US04175135
Utilizing the procedure of EXAMPLE XX 6-(2',5'-dimethylphenyl)-5-keto-3,3-dimethyl hexanoic acid was esterified with absolute ethanol in the presence of a catalytic amount of concentrated sulfuric acid to provide 15.52 g (78% yield) of ethyl 6-(2',5'-dimethylphenyl)-5-keto-3,3-dimethylhexanoate as a pale viscous oil.

reactant | 6-(2',5'-dimethylphenyl)-5-keto-3,3-dimethyl hexanoic acid | CC1=C(C=C(C=C1)C)CC(CC(CC(=O)O)(C)C)=O | C16H22O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl 6-(2',5'-dimethylphenyl)-5-keto-3,3-dimethylhexanoate | 15.52 g, 78% yield | CC1=C(C=C(C=C1)C)CC(CC(CC(=O)OCC)(C)C)=O | C18H26O3
